US09260414B2
(a) (R)-4-[5-(2-Ethoxy-4′-{2-[(S)-1-((S)-2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-1H-imidazol-4-yl}-biphenyl-4-ylcarbamoyl)-pyridin-2-yl]-3-methyl-piperazine-1-carboxylic acid tert-butyl ester
A mixture of [(S)-2-methyl-1-((S)-2-{4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester (253 mg, 0.52 mmol) and the TFA salt of (R)-4-[5-(4-bromo-3-ethoxy-phenylcarbamoyl)-pyridin-2-yl]-3-methyl-piperazine-1-carboxylic acid tert-butyl ester (324 mg, 0.52 mmol; Preparation 21) was dissolved in 1,2-dimethoxyethane (5.32 mL, 51.2 mmol) and water (0.92 mL, 51.2 mmol) and the mixture was sparged under nitrogen. Sodium bicarbonate (161 mg, 1.92 mmol) was added, followed by tetrakis(triphenylphosphine)palladium(0) (89 mg, 0.077 mmol). The reaction mixture was further sparged with nitrogen, sealed under nitrogen and heated at 90° C. overnight. The reaction mixture was extracted with ethyl acetate and water. The organic layer was dried over sodium sulfate, filtered and concentrated to produce the title intermediate as a brown oil. (m/z): [M+H]+ calcd for C44H56N8O7 809.43 found 809.6.

reactant | [(S)-2-methyl-1-((S)-2-{4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester | 0.52 mmol, 253 mg | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](CCC1)C=1NC=C(N1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C26H37BN4O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (R)-4-[5-(4-bromo-3-ethoxy-phenylcarbamoyl)-pyridin-2-yl]-3-methyl-piperazine-1-carboxylic acid tert-butyl ester | 0.52 mmol, 324 mg | C(C)(C)(C)OC(=O)N1C[C@H](N(CC1)C1=NC=C(C=C1)C(NC1=CC(=C(C=C1)Br)OCC)=O)C | C24H31BrN4O4
reactant | 1,2-dimethoxyethane | 51.2 mmol, 5.32 mL | COCCOC | C4H10O2
reactant | water | 51.2 mmol, 0.92 mL | O | H2O
reactant | Sodium bicarbonate | 1.92 mmol, 161 mg | C([O-])(O)=O.[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.077 mmol, 89 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (R)-4-[5-(2-Ethoxy-4′-{2-[(S)-1-((S)-2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-1H-imidazol-4-yl}-biphenyl-4-ylcarbamoyl)-pyridin-2-yl]-3-methyl-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](N(CC1)C1=NC=C(C=C1)C(NC1=CC(=C(C=C1)C1=CC=C(C=C1)C=1N=C(NC1)[C@H]1N(CCC1)C([C@H](C(C)C)NC(=O)OC)=O)OCC)=O)C | C44H56N8O7
